US05455273
trans-N-tert. Butoxycarbonyl-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine
6.0 g of trans-N-tert.butoxycarbonyl-N-methyl-4-(4-methanesulphonyloxymethylphenyl)cyclohexylamine, 4.2 g of potassium carbonate and 1.6 g of N-methyl-3-hydroxypropylamine are heated together to 50° C. in 50 ml of dimethylformamide overnight. The mixture is poured into water and extracted with ethyl acetate. After drying of the organic phase, removal of the solvent and recrystallisation from petroleum ether, 7.1 g of the title compound are obtained, melting point 63°-65° C.

reactant | trans-N-tert.butoxycarbonyl-N-methyl-4-(4-methanesulphonyloxymethylphenyl)cyclohexylamine | 6.0 g | C(C)(C)(C)OC(=O)N(C)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)COS(=O)(=O)C | C20H31NO5S
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methyl-3-hydroxypropylamine | 1.6 g | CNCCCO | C4H11NO
reactant | water | O | H2O
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | trans-N-tert. Butoxycarbonyl-N-methyl-4-[4-(3-hydroxypropyl)methylaminomethylphenyl]cyclohexylamine | C(C)(C)(C)OC(=O)N(C)[C@@H]1CC[C@H](CC1)C1=C(C=C(C=C1)CCCO)CNC | C23H38N2O3
